US04012513
A solution of 1-(7-chloroquinazolin-4-yl)-3-(2-hydroxyethyl)-5-methoxy-2-methylindole (0.6g.) and acetic anhydride (0.4g.) in benzene (20ml.; dried over sodium wire) was refluxed for 15 hours. The resulting yellow solution was cooled and washed successively with saturated sodium hydrogen carbonate solution (2 × 20ml.) and water (20ml.), and dried (MgSO4). The solution was evaporated to give 2-[1-(7-chloroquinazolin-4-yl)-5-methoxy-2-methylindol-3-yl]ethyl acetate as an oil [pure by TLC (system A) and having a satisfactory NMR spectrum (--OCH3 τ 6.18)].

reactant | 1-(7-chloroquinazolin-4-yl)-3-(2-hydroxyethyl)-5-methoxy-2-methylindole | 0.6g | ClC1=CC=C2C(=NC=NC2=C1)N1C(=C(C2=CC(=CC=C12)OC)CCO)C | C20H18ClN3O2
reactant | acetic anhydride | 0.4g | C(C)(=O)OC(C)=O | C4H6O3
solvent | benzene | 20ml | C1=CC=CC=C1 | C6H6
product | 2-[1-(7-chloroquinazolin-4-yl)-5-methoxy-2-methylindol-3-yl]ethyl acetate | C(C)(=O)OCCC1=C(N(C2=CC=C(C=C12)OC)C1=NC=NC2=CC(=CC=C12)Cl)C | C22H20ClN3O3
